US09340538B2
Step D: Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(5-methyl-1,3,4-thiadiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate
Ethyl 4-(2-bromo-4-fluorophenyl)-6-methyl-2-(5-methyl-1,3,4-thiadiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (0.88 g, 2 mmol) was reacted with NBS (0.36 g, 2 mmol) according to the procedure as described in Example 1, Step B to give the title compound as a yellow solid (0.73 g, 70%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-bromo-4-fluorophenyl)-6-methyl-2-(5-methyl-1,3,4-thiadiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 2 mmol, 0.88 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)C)C=1SC(=NN1)C | C17H16BrFN4O2S
reactant | NBS | 2 mmol, 0.36 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
product | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(5-methyl-1,3,4-thiadiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 0.73 g, 70% | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CBr)C=1SC(=NN1)C | C17H15Br2FN4O2S
